US07521529B2
N,N′-Bis(Fmoc)-L-cystine (12.0 g, 17.5 mmol) was dissolved in methanol (300 mL). Granular zinc (12.0 g) was added to this solution and the resulting mixture was vigorously stirred using a magnetic stirrer. Trifluoroacetic acid (75 mL, 1 mol) was added dropwise into the reaction mixture over period of 2 h and stirred at room temperature for a period of 12 h. The reaction was monitored by C-18 reverse phase high pressure liquid chromatography (HPLC) and thin layer chromatography (TLC, chloroform/methanol/acetic acid=30:1:0.1, v/v). Upon disappearance of N,N′-bis(Fmoc)-L-cystine, the reaction mixture was filtered and concentrated on a rotary evaporator to reduce the volume to approximately 100 mL. Dichloromethane (400 mL) was added and the mixture was washed with 2N aqueous hydrochloric acid. The aqueous layer was extracted with dichloromethane and the combined organic layers were dried over magnesium sulfate. Concentration of the solution gave N-(Fmoc)-L-cysteine, 8.8 g 73%) (FIGS. 3 and 4, structure B) as a white powder.

reactant | N,N′-Bis(Fmoc)-L-cystine | 17.5 mmol, 12.0 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CSSC[C@@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O | C36H32N2O8S2
reactant | Trifluoroacetic acid | 1 mol, 75 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | chloroform methanol acetic acid | C(Cl)(Cl)Cl.CO.C(C)(=O)O
solvent | methanol | 300 mL | CO | CH4O
catalyst | zinc | 12.0 g | [Zn] | Zn
product | N-(Fmoc)-L-cysteine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CS)C(=O)O | C18H17NO4S
